US04665188
11.7 g of 2,2-indandicarboxylic acid was heated at 200° C. for 30 minutes. After liberation of bubbles ceased, the reaction product was cooled and dissolved in 150 ml of ethanol. 4 ml of concentrated sulfuric acid was added to the solution and the mixture was heated under reflux for 4 hours. The reaction mixture was concentrated in vacuo and the residue was neutralized by addition of sodium carbonate. The mixture was extracted with chloroform. The extract was washed with water and dried and then concentrated in vacuo to give 9.4 g of ethyl 2-indancarboxylate as an oil.

reactant | 2,2-indandicarboxylic acid | 11.7 g | C1C(CC2=CC=CC=C12)(C(=O)O)C(=O)O | C11H10O4
reactant | sulfuric acid | 4 ml | S(O)(O)(=O)=O | H2O4S
reactant | ethanol | 150 ml | C(C)O | C2H6O
product | ethyl 2-indancarboxylate | 9.4 g | C1C(CC2=CC=CC=C12)C(=O)OCC | C12H14O2
